US07687664B2
Methyl 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
1.6 g of Methyl 3-bromo-5-methoxybenzoate, 1.9 g of bis(pinacolato)diboron, 160 mg of dichlorobistriphenyl phosphinoferrocene palladium and 1.9 of g potassium acetate were dissolved in 25 ml of dimethyl sulfoxide, and the mixture was stirred at 100° C. for 24 hours in a nitrogen atmosphere. The reaction mixture was diluted with ethyl acetate and water and, filtered through Celite. The filtrate was washed with water and brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified by silica gel column, to give 1.1 g of the title compound in the 4:1 hexane-ethyl acetate fraction.

reactant | Methyl 3-bromo-5-methoxybenzoate | 1.6 g | BrC=1C=C(C(=O)OC)C=C(C1)OC | C9H9BrO3
reactant | bis(pinacolato)diboron | 1.9 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | C(C)(=O)[O-].[K+]
solvent | dimethyl sulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Methyl 2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.1 g | COC1=C(C(=O)OC)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C15H21BO5
